US07579474B2
4-(2,3-DICHLOROPHENYL)-1-(2-METHOXYETHYL)-PIPERIDIN-4-OL
Preparation according to Example 2: 4-(2,3-dichlorophenyl)piperidin-4-ol (0.44 g, 1.81 mmol), acetonitrile (20 ml), potassium carbonate (0.5 g, 3.6 mmol), 1-bromo-2-methoxyethane (0.17 ml, 2.0 mmol). Yield: 0.3 g, 54%. The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether. M.p. 135-137° C. MS m/z (relative intensity, 70 eV) 305 (M+, 1), 303 (M+, 1), 260 (63), 258 (bp) 240 (31).

reactant | 4-(2,3-dichlorophenyl)piperidin-4-ol | 1.81 mmol, 0.44 g | ClC1=C(C=CC=C1Cl)C1(CCNCC1)O | C11H13Cl2NO
reactant | potassium carbonate | 3.6 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 2.0 mmol, 0.17 ml | BrCCOC | C3H7BrO
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(2,3-DICHLOROPHENYL)-1-(2-METHOXYETHYL)-PIPERIDIN-4-OL | ClC1=C(C=CC=C1Cl)C1(CCN(CC1)CCOC)O | C14H19Cl2NO2
